US08912186B2
By a procedure similar to that of example 1.59.1, starting from 2-naphthaldehyde and 4-iodoacetophenone, 1-(4-iodophenyl)-3-(2-naphthalenyl)prop-2-en-1-one was obtained as yellowish solid.

reactant | 2-naphthaldehyde | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | 4-iodoacetophenone | CC(=O)C1=CC=C(C=C1)I | C8H7IO
product | 1-(4-iodophenyl)-3-(2-naphthalenyl)prop-2-en-1-one | IC1=CC=C(C=C1)C(C=CC1=CC2=CC=CC=C2C=C1)=O | C19H13IO
